US09193707B2
2. Synthesis of 4-[(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)methyl]benzoyl chloride
Into a 500-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed 4-[(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)methyl]benzoic acid (15.7 g, 55.82 mmol, 1.00 equiv), dichloromethane (200 mL), oxalic dichloride (10.56 g, 83.20 mmol, 1.49 equiv) and dimethylforamide (cat.). The resulting solution was stirred for 2 h at 25° C. The resulting mixture was concentrated under vacuum. This resulted in 16.7 g (crude) of 4-[(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)methyl]benzoyl chloride as a white solid. Rf: 0.30 (in ethyl acetate:petroleum ether=1:5).

reactant | 4-[(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)methyl]benzoic acid | 55.82 mmol, 15.7 g, 1.00 equiv | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC=C(C(=O)O)C=C1 | C16H11NO4
reactant | dichloromethane | 200 mL | ClCCl | CH2Cl2
reactant | oxalic dichloride | 83.20 mmol, 10.56 g, 1.49 equiv | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylforamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)methyl]benzoyl chloride | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC=C(C(=O)Cl)C=C1 | C16H10ClNO3
